### PR TITLE
[Merged by Bors] - feat(LinearAlgebra/Matrix): swap matrices

### PR DESCRIPTION
**Pull request by chrisflav**
We define and establish basic API for swap matrices. `Matrix.swap R i j` is the matrix that, when multiplying on the left, swaps the `i`-th and `j`-th row.

From "Formalizing the Bruhat-Tits tree"

Co-authored-by: Judith Ludwig <ludwig@mathi.uni-heidelberg.de>

---

- [x] depends on: #21143
- [x] depends on: #21141 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by eric-wieser** [comment]
Are you aware of Equiv.toMatrix, or whatever the actual name is? Certainly, we have a way of converting `Equiv.swap i j` into a matrix, which I think might unfortunately make much of this PR moot.

**Comment by chrisflav** [comment]
> Are you aware of Equiv.toMatrix, or whatever the actual name is? Certainly, we have a way of converting `Equiv.swap i j` into a matrix, which I think might unfortunately make much of this PR moot.

I was not aware of `PEquiv.toMatrix` and indeed [PEquiv.toMatrix_swap](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Matrix/PEquiv.html#PEquiv.toMatrix_swap) shows that it gives the `Matrix.swap` defined here. This might simplify some of the proofs, but I still think we need the API here. Am I misunderstanding you?

File: Mathlib/LinearAlgebra/Matrix/Swap.lean [hunk 1]
```diff
@@ -0,0 +1,164 @@
...
+
+variable (R) in
+/-- The swap matrix `swap R i j` is the identity matrix with the
+`i`-th and `j`-th rows modified such that multiplying by it on the
+left (resp. right) corresponds to swapping the `i`-th and `j`-th row (resp. column). -/
+def swap (i j : n) : Matrix n n R :=
+  1 - stdBasisMatrix i i 1
+    - stdBasisMatrix j j 1
+    + stdBasisMatrix i j 1
+    + stdBasisMatrix j i 1
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Matrix/Swap.lean:33]: I think at the very least we should define this in terms of `(Equiv.swap _ _).toPEquiv.toMatrix`, as then it doesn't need `Ring` or even `Neg`, and will work on matrices of `Nat`.

I'm still not sure whether we want `swap` at all, but I think it will be easier to tell once it's written in terms of the existing API.

Comment (chrisflav) [reply Mathlib/LinearAlgebra/Matrix/Swap.lean]: Indeed, using `PEquiv.toMatrix` significantly improves things. I generalized some of the lemmas to that setting and now just specialize.

File: Mathlib/LinearAlgebra/Matrix/Swap.lean [hunk 2]
```diff
@@ -0,0 +1,166 @@
...
+lemma toPEquiv_toMatrix_vecMul_apply [Fintype m] [DecidableEq n]
+    [NonAssocSemiring α] (σ : m ≃ n) (i : n) (a : m → α) :
+    (a ᵥ* σ.toPEquiv.toMatrix) i = a (σ.symm i) := by
+  classical
+  induction' a using Pi.induction_add with f g hf hg x y
+  · simp
+  · simp [hf, hg, Matrix.add_vecMul]
+  · simp only [single_vecMul, PEquiv.toMatrix_apply, Option.mem_def, toPEquiv_eq_some_iff, mul_ite,
+      mul_one, mul_zero, Pi.single_apply, symm_apply_eq]
+    simp_rw [eq_comm]
```
Comment (chrisflav) [inline Mathlib/LinearAlgebra/Matrix/Swap.lean:47]: Do you have an idea where these should go? Note that `Pi.induction_add` is not available in `Data.Matrix.PEquiv` because `Algebra.BigOperators.Pi` is not available.

File: Mathlib/LinearAlgebra/Matrix/Swap.lean [hunk 3]
```diff
@@ -0,0 +1,166 @@
...
+
+variable (R : Type*) {n : Type*} [CommRing R] [DecidableEq n] [Fintype n]
+
+/-- `Matrix.swap` as an element of `GL n R`. -/
+@[simps]
+def swap (i j : n) : GL n R where
+  val := Matrix.swap R i j
+  inv := Matrix.swap R i j
+  val_inv := swap_mul_self i j
+  inv_val := swap_mul_self i j
```
Comment (chrisflav) [inline Mathlib/LinearAlgebra/Matrix/Swap.lean:155]: If you insist, I can define this in the `PEquiv` setting as well, this has nicer def-eqs though since here `val = inv` is def-eq.

File: Mathlib/Data/Matrix/Basis.lean [hunk 4]
```diff
@@ -49,6 +49,12 @@ theorem stdBasisMatrix_zero (i : m) (j : n) : stdBasisMatrix i j (0 : α) = 0 :=
   ext
   simp
 
+@[simp]
+lemma transpose_stdBasisMatrix (i j : n) (a : α) :
+    (stdBasisMatrix i j a).transpose = stdBasisMatrix j i a := by
```
Comment (eric-wieser) [inline Mathlib/Data/Matrix/Basis.lean:54]: Can you use the notation here? Also, can you add the `conjTranspose` version too?

File: Mathlib/Data/PEquiv.lean [hunk 5]
```diff
@@ -435,4 +435,9 @@ theorem toPEquiv_symm (f : α ≃ β) : f.symm.toPEquiv = f.toPEquiv.symm :=
 theorem toPEquiv_apply (f : α ≃ β) (x : α) : f.toPEquiv x = some (f x) :=
```
Comment (eric-wieser) [inline Mathlib/Data/PEquiv.lean:435]: Maybe this should just be `simp`, then you wouldn't need the lemma below?

**Comment by chrisflav** [comment]
Thanks for the suggestions @eric-wieser!

File: Mathlib/Data/Matrix/Mul.lean [hunk 6]
```diff
@@ -753,6 +753,20 @@ theorem vecMul_ofNat (x : ℕ) [x.AtLeastTwo] (v : m → α) :
     v ᵥ* OfNat.ofNat (no_index x) = MulOpposite.op (OfNat.ofNat x : α) • v :=
   vecMul_natCast _ _
 
+omit [Fintype n] in
+lemma ext_of_mulVec {g k : Matrix n m α} (h : ∀ i, g *ᵥ Pi.single i 1 = k *ᵥ Pi.single i 1) :
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Matrix/Mul.lean:757]: Why g and k as names for matrices? The rest of the file seems to use M and N

File: Mathlib/LinearAlgebra/Matrix/Swap.lean [hunk 7]
```diff
@@ -0,0 +1,166 @@
...
+variable {R n : Type*} [Zero R] [One R] [DecidableEq n]
+
+variable (R) in
+/-- The swap matrix `swap R i j` is the identity matrix with the
+`i`-th and `j`-th rows modified such that multiplying by it on the
+left (resp. right) corresponds to swapping the `i`-th and `j`-th row (resp. column). -/
+def swap (i j : n) : Matrix n n R :=
+  (Equiv.swap i j).toPEquiv.toMatrix
+
+lemma swap_eq_swap (i j : n) :
```
Comment (Ruben-VandeVelde) [inline Mathlib/LinearAlgebra/Matrix/Swap.lean:64]: I think `swap_comm` for consistency (and clearer to me as well)

File: Mathlib/LinearAlgebra/Matrix/Swap.lean [hunk 8]
```diff
@@ -0,0 +1,166 @@
...
+namespace Equiv
+
+open Matrix
+
+variable {α n m : Type*}
+
+lemma toPEquiv_toMatrix_mulVec_apply [Fintype n] [DecidableEq n]
+    [NonAssocSemiring α] (σ : m ≃ n) (i : m) (a : n → α) :
+    (σ.toPEquiv.toMatrix *ᵥ a) i = a (σ i) := by
+  induction' a using Pi.induction_add with f g hf hg x y
```
Comment (Ruben-VandeVelde) [inline Mathlib/LinearAlgebra/Matrix/Swap.lean:33]: With this number of arguments, I would recommend new-style `induction` rather than `induction'`

File: Mathlib/LinearAlgebra/Matrix/Swap.lean [hunk 9]
```diff
@@ -0,0 +1,166 @@
...
+
+variable [Fintype n]
+
+lemma swap_mulVec_single (i j : n) (r : R) :
+    swap R i j *ᵥ Pi.single i r = Pi.single j r := by
+  simp only [swap, Equiv.toPEquiv_toMatrix_mulVec_single, Equiv.symm_swap]
+  rw [Equiv.swap_apply_left]
+
+/-- Variant of `Matrix.swap_mulVec_single` with `i` and `j` switched in `Pi.single`. -/
+lemma swap_mulVec_single' (i j : n) (r : R) :
```
Comment (Ruben-VandeVelde) [inline Mathlib/LinearAlgebra/Matrix/Swap.lean:92]: Maybe `swap_mulVec_single_{left,right}`?

File: Mathlib/LinearAlgebra/Matrix/Swap.lean [hunk 10]
```diff
@@ -0,0 +1,166 @@
...
+
+/-- Multiplying with `swap R i j` on the left swaps the `i`-th row with the `j`-th row. -/
+@[simp]
+lemma swap_mul_apply (a i j : n) (g : Matrix n n R) :
+    (swap R i j * g) i a = g j a := by
+  simp [swap, PEquiv.toPEquiv_mul_matrix]
+
+/-- Multiplying with `swap R i j` on the left swaps the `j`-th row with the `i`-th row. -/
+@[simp]
+lemma swap_mul_apply' (a i j : n) (g : Matrix n n R) :
```
Comment (Ruben-VandeVelde) [inline Mathlib/LinearAlgebra/Matrix/Swap.lean:113]: Same

**Review by Ruben-VandeVelde — COMMENTED** [review]
Thanks! This seems reasonable; just some small comments below.

**Comment by chrisflav** [comment]
Thanks @Ruben-VandeVelde, I adapted your suggestions.

File: Mathlib/Data/Matrix/ConjTranspose.lean [hunk 11]
```diff
@@ -12,6 +12,7 @@ import Mathlib.Algebra.Star.Module
 import Mathlib.Algebra.Star.Pi
 import Mathlib.Data.Fintype.BigOperators
 import Mathlib.Data.Matrix.Mul
+import Mathlib.Data.Matrix.Basis
```
Comment (eric-wieser) [inline Mathlib/Data/Matrix/ConjTranspose.lean:15]: This feels backwards to me, but perhaps @Vierkantor can opine on which direction this import should go.

Comment (Vierkantor) [reply Mathlib/Data/Matrix/ConjTranspose.lean:15]: (Sorry, feeling ill since this weekend so this is probably not very coherent.) The import graph of `ConjTranspose` is very gray. And via `Matrix.Basis` we'll additionally get products and spans of modules and algebras. Is `assert_not_exists Algebra` true on the master branch?

File: Mathlib/Algebra/BigOperators/Pi.lean [hunk 12]
```diff
@@ -181,3 +181,10 @@ def Pi.monoidHomMulEquiv {ι : Type*} [Fintype ι] [DecidableEq ι] (M : ι →
       MonoidHom.mul_apply, mul_apply]
 
 end MulEquiv
+
+@[to_additive]
```
Comment (eric-wieser) [inline Mathlib/Algebra/BigOperators/Pi.lean:185]:
```suggestion
@[to_additive (attr := elab_as_elim)]
```
since this is an induction principle.

File: Mathlib/LinearAlgebra/Matrix/Swap.lean [hunk 13]
```diff
@@ -0,0 +1,167 @@
...
+
+namespace Equiv
+
+open Matrix
+
+variable {α n m : Type*}
+
+lemma toPEquiv_toMatrix_mulVec_apply [Fintype n] [DecidableEq n]
+    [NonAssocSemiring α] (σ : m ≃ n) (i : m) (a : n → α) :
+    (σ.toPEquiv.toMatrix *ᵥ a) i = a (σ i) := by
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Matrix/Swap.lean:32]: I think this might be slightly more useful as
```lean
lemma toPEquiv_toMatrix_mulVec [Fintype n] [DecidableEq n]
    [NonAssocSemiring α] (σ : m ≃ n) (a : n → α) :
    σ.toPEquiv.toMatrix *ᵥ a = a ∘ σ
```
though it's ok to have both as long as you prove one with the other.

File: Mathlib/LinearAlgebra/Matrix/Swap.lean [hunk 14]
```diff
@@ -0,0 +1,167 @@
...
+left (resp. right) corresponds to swapping the `i`-th and `j`-th row (resp. column). -/
+def swap (i j : n) : Matrix n n R :=
+  (Equiv.swap i j).toPEquiv.toMatrix
+
+lemma swap_comm (i j : n) :
+    swap R i j = swap R j i := by
+  simp only [swap, Equiv.swap_comm]
+
+@[simp]
+lemma swap_transpose (i j : n) : (swap R i j).transpose = swap R i j := by
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Matrix/Swap.lean:70]: Could you add the conjTranspose lemma too?

File: Mathlib/Algebra/BigOperators/Pi.lean [hunk 15]
```diff
@@ -181,3 +181,10 @@ def Pi.monoidHomMulEquiv {ι : Type*} [Fintype ι] [DecidableEq ι] (M : ι →
       MonoidHom.mul_apply, mul_apply]
 
 end MulEquiv
+
+@[to_additive (attr := elab_as_elim)]
+lemma Pi.induction_mul {ι M : Type*} [Fintype ι] [DecidableEq ι] [CommMonoid M] (p : (ι → M) → Prop)
+    (f : ι → M) (hone : p 1) (hmul : ∀ f g, p f → p g → p (f * g))
+    (hsingle : ∀ i m, p (Pi.mulSingle i m)) : p f := by
```
Comment (eric-wieser) [inline Mathlib/Algebra/BigOperators/Pi.lean:188]:
```suggestion
lemma Pi.induction_mul {ι M : Type*} [Fintype ι] [DecidableEq ι] [CommMonoid M] (p : (ι → M) → Prop)
    (f : ι → M) (hone : p 1) (hmul : ∀ f g, p f → p g → p (f * g))
    (hsingle : ∀ i m, p (Pi.mulSingle i m)) : p f := by
  cases nonempty_fintype ι
```

File: Mathlib/LinearAlgebra/Matrix/Swap.lean [hunk 16]
```diff
@@ -0,0 +1,167 @@
...
+
+lemma swap_mulVec_single_left (i j : n) (r : R) :
+    swap R i j *ᵥ Pi.single i r = Pi.single j r := by
+  simp only [swap, Equiv.toPEquiv_toMatrix_mulVec_single, Equiv.symm_swap]
+  rw [Equiv.swap_apply_left]
+
+/-- Variant of `Matrix.swap_mulVec_single` with `i` and `j` switched in `Pi.single`. -/
+lemma swap_mulVec_single_right (i j : n) (r : R) :
+    swap R i j *ᵥ Pi.single j r = Pi.single i r := by
+  rw [swap_comm, swap_mulVec_single_left]
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Matrix/Swap.lean:95]: These look like good `simp` lemmas. Can you add the `vecMul` versions too?

File: Mathlib/LinearAlgebra/Matrix/Swap.lean [hunk 17]
```diff
@@ -0,0 +1,167 @@
...
+
+lemma swap_mulVec_single_of_ne {i j k : n} (hik : k ≠ i) (hjk : k ≠ j) (r : R) :
+    swap R i j *ᵥ Pi.single k r = Pi.single k r := by
+  simp only [swap, Equiv.toPEquiv_toMatrix_mulVec_single, Equiv.symm_swap,
+    Equiv.swap_apply_of_ne_of_ne hik hjk]
+
+lemma swap_mulVec_apply (i j : n) (a : n → R) :
+    (swap R i j *ᵥ a) i = a j := by
+  simp [swap, Equiv.toPEquiv_toMatrix_mulVec_apply]
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Matrix/Swap.lean:104]: This one also looks like a good simp lemma.

File: Mathlib/Data/Matrix/PEquiv.lean [hunk 18]
```diff
@@ -156,4 +156,36 @@ theorem equiv_toPEquiv_toMatrix [DecidableEq n] [Zero α] [One α] (σ : Equiv n
     σ.toPEquiv.toMatrix i j = (1 : Matrix n n α) (σ i) j :=
```
[the remark this answers is not in the document]
Comment (chrisflav) [reply Mathlib/Data/Matrix/PEquiv.lean:156]: While I agree this looks reasonable, I don't understand the implications of your comment for this PR.

File: Mathlib/LinearAlgebra/Matrix/Swap.lean (hunk 16 above)
Comment (chrisflav) [reply Mathlib/LinearAlgebra/Matrix/Swap.lean]: They can't be `simp` because of `Matrix.mulVec_single` (which I think looks questionable as a `simp` lemma).

File: Mathlib/Algebra/BigOperators/Pi.lean [hunk 19]
```diff
@@ -181,3 +181,11 @@ def Pi.monoidHomMulEquiv {ι : Type*} [Fintype ι] [DecidableEq ι] (M : ι →
       MonoidHom.mul_apply, mul_apply]
 
 end MulEquiv
+
+@[to_additive (attr := elab_as_elim)]
+lemma Pi.induction_mul {ι M : Type*} [Finite ι] [DecidableEq ι] [CommMonoid M] (p : (ι → M) → Prop)
+    (f : ι → M) (hone : p 1) (hmul : ∀ f g, p f → p g → p (f * g))
+    (hsingle : ∀ i m, p (Pi.mulSingle i m)) : p f := by
```
Comment (eric-wieser) [inline Mathlib/Algebra/BigOperators/Pi.lean:188]: Convention for indunction principles is to drop the `h`s:
```suggestion
    (f : ι → M) (one : p 1) (mul : ∀ f g, p f → p g → p (f * g))
    (mulSingle : ∀ i m, p (Pi.mulSingle i m)) : p f := by
```
You might want to manually `to_additive` this so that the names are `add` and `single` for the additive version.

File: Mathlib/Data/Matrix/PEquiv.lean (hunk 18 above)
[the remark this answers is not in the document]
Comment (eric-wieser) [reply Mathlib/Data/Matrix/PEquiv.lean:156]: After trying to apply it, I found it had no use :)

File: Mathlib/LinearAlgebra/Matrix/Swap.lean (hunk 16 above)
Comment (eric-wieser) [reply Mathlib/LinearAlgebra/Matrix/Swap.lean]: I've opened #21091, which hopefully is a slightly better form for that lemma; though it probably won't help here.

Was the error "simp can prove this" or "simp can reduce the LHS"? Ideally it would be the former...

Comment (chrisflav) [reply Mathlib/LinearAlgebra/Matrix/Swap.lean]: It is `simp` can reduce the LHS. I can make it the former though by adding more lemmas I think.

Comment (chrisflav) [reply Mathlib/LinearAlgebra/Matrix/Swap.lean]: Hm, possibly
```
@[simp]
lemma swap_apply_apply_left (i j k : n) :
    swap R i j k i = Pi.single (f := fun _ ↦ R) j 1 k := by
  simp [swap, Pi.single_apply, Equiv.swap, Equiv.swapCore]
  aesop

@[simp]
lemma swap_apply_apply_right (i j k : n) :
    swap R i j j k = Pi.single (f := fun _ ↦ R) i 1 k := by
  simp [swap, Pi.single_apply, Equiv.swap, Equiv.swapCore]
  aesop
```
helps. Then it becomes
```
lemma swap_mulVec_single_left (i j : n) (r : R) :
    swap R i j *ᵥ Pi.single i r = Pi.single j r := by
  ext k
  simp [Pi.single_apply]
```
Do you think that's worth it?

File: Mathlib/Data/Matrix/ConjTranspose.lean (hunk 11 above)
Comment (Vierkantor) [reply Mathlib/Data/Matrix/ConjTranspose.lean]: Hmm... Indeed `Algebra.Star.Module` already brings in `LinearAlgebra.Prod` so I suppose for the short term we'd better stick to your original approach of importing `Basis` into `ConjTranspose`. In the long term we would have to do a lot more untangling before this file gets a nice set of imports. But that long term should not apply to your PR.

Comment (chrisflav) [reply Mathlib/Data/Matrix/ConjTranspose.lean:14]: Thanks, changed it back.

File: Mathlib/Algebra/BigOperators/Pi.lean [hunk 20]
```diff
@@ -181,3 +181,20 @@ def Pi.monoidHomMulEquiv {ι : Type*} [Fintype ι] [DecidableEq ι] (M : ι →
...
+-- manually additivized to fix variable names
+@[elab_as_elim]
+lemma Pi.induction_add {ι M : Type*} [Finite ι] [DecidableEq ι] [AddCommMonoid M]
+    (p : (ι → M) → Prop) (f : ι → M) (zero : p 0) (add : ∀ f g, p f → p g → p (f + g))
+    (single : ∀ i m, p (Pi.single i m)) : p f := by
+  cases nonempty_fintype ι
+  rw [← Finset.univ_sum_single f]
+  exact Finset.sum_induction _ _ add zero (by simp [single])
+
+@[elab_as_elim]
```
Comment (eric-wieser) [inline Mathlib/Algebra/BigOperators/Pi.lean:194]:
```suggestion
@[elab_as_elim, to_additive existing]
```
or whatever the syntax is.

File: Mathlib/LinearAlgebra/Matrix/Swap.lean (hunk 16 above)
Comment (eric-wieser) [reply Mathlib/LinearAlgebra/Matrix/Swap.lean]: Probably not in it's current form. I'll locally merge #21091 and see if that's enough to result in a confluent `simp` set.

File: Mathlib/Data/Matrix/PEquiv.lean [hunk 21]
```diff
@@ -156,4 +156,36 @@ theorem equiv_toPEquiv_toMatrix [DecidableEq n] [Zero α] [One α] (σ : Equiv n
...
+
 end PEquiv
+
+namespace Equiv
+
+open Matrix
+
+variable {α m n : Type*} [DecidableEq m] [DecidableEq n]
+
+lemma toPEquiv_toMatrix_mulVec_single [Fintype n] [NonAssocSemiring α] (σ : m ≃ n) (i : n) (x : α) :
```
Comment (eric-wieser) [inline Mathlib/Data/Matrix/PEquiv.lean:173]: Strictly speaking this name is backwards; I've created #21108 to fix the existing names that this copies.

File: Mathlib/LinearAlgebra/Matrix/Swap.lean [hunk 22]
```diff
@@ -0,0 +1,204 @@
...
+section Def
+
+variable {R n : Type*} [Zero R] [One R] [DecidableEq n]
+
+variable (R) in
+/-- The swap matrix `swap R i j` is the identity matrix with the
+`i`-th and `j`-th rows modified such that multiplying by it on the
+left (resp. right) corresponds to swapping the `i`-th and `j`-th row (resp. column). -/
+def swap (i j : n) : Matrix n n R :=
+  (Equiv.swap i j).toPEquiv.toMatrix
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Matrix/Swap.lean:75]:
```suggestion
  (Equiv.swap i j).permMatrix
```
seems to be the same thing.

File: Mathlib/Data/Matrix/Mul.lean [hunk 23]
```diff
@@ -828,6 +828,20 @@ theorem vecMul_ofNat (x : ℕ) [x.AtLeastTwo] (v : m → α) :
...
+  ext i j
+  simp_rw [mulVec_single_one] at h
+  exact congrFun (h j) i
+
+omit [Fintype n] in
+lemma ext_of_vecMul {M N : Matrix m n α} (h : ∀ i, Pi.single i 1 ᵥ* M = Pi.single i 1 ᵥ* N) :
+    M = N := by
+  ext i j
+  simp_rw [single_one_vecMul] at h
+  exact congrFun (h i) j
```
Comment (YaelDillies) [inline Mathlib/Data/Matrix/Mul.lean:843]: Can_ you move them to L. 789 and split the `variable` into two? one half before your lemmas, the rest after

File: Mathlib/Data/Matrix/PEquiv.lean
Comment (YaelDillies) [inline Mathlib/Data/Matrix/PEquiv.lean:1]: Eric just renamed a bunch of lemmas in this file. Can you merge master to check your code still compiles?

File: Mathlib/LinearAlgebra/Matrix/Swap.lean [hunk 24]
```diff
@@ -0,0 +1,204 @@
...
+
+namespace Equiv
+
+open Matrix
+
+variable {α n m : Type*}
+
+lemma toPEquiv_toMatrix_mulVec_apply [Fintype n] [DecidableEq n]
+    [NonAssocSemiring α] (σ : m ≃ n) (i : m) (a : n → α) :
+    (σ.toPEquiv.toMatrix *ᵥ a) i = a (σ i) := by
```
Comment (YaelDillies) [inline Mathlib/LinearAlgebra/Matrix/Swap.lean:32]:
```suggestion
lemma toMatrix_toPEquiv_mulVec_apply [Fintype n] [DecidableEq n]
    [NonAssocSemiring α] (σ : m ≃ n) (i : m) (a : n → α) :
    (σ.toPEquiv.toMatrix *ᵥ a) i = a (σ i) := by
```
Same below

File: Mathlib/LinearAlgebra/Matrix/Swap.lean
Comment (YaelDillies) [inline Mathlib/LinearAlgebra/Matrix/Swap.lean:1]: Could you split this PR into two? One adding:
* the small lemmas added to various files
* this new file

It's good practice to add new definitions in their own PR, separate from cleanup/API filling concerns

File: Mathlib/Algebra/BigOperators/Pi.lean [hunk 25]
```diff
@@ -181,3 +181,21 @@ def Pi.monoidHomMulEquiv {ι : Type*} [Fintype ι] [DecidableEq ι] (M : ι →
       MonoidHom.mul_apply, mul_apply]
 
 end MulEquiv
+
+-- manually additivized to fix variable names
```
[the remark this answers is not in the document]
Comment (fpvandoorn) [reply Mathlib/Algebra/BigOperators/Pi.lean:185]: Yeah, that seems reasonable if someone wants to implement this. This is #11462

File: Mathlib/LinearAlgebra/Matrix/Swap.lean
Comment (chrisflav) [reply Mathlib/LinearAlgebra/Matrix/Swap.lean:1]: Have done so.

Comment (eric-wieser) [reply Mathlib/LinearAlgebra/Matrix/Swap.lean:1]: I've attempted to solve the merge conflicts for you.

File: Mathlib/LinearAlgebra/Matrix/Swap.lean (hunk 22 above)
Comment (chrisflav) [reply Mathlib/LinearAlgebra/Matrix/Swap.lean:35]: I don't know if the name is worth the extra import? Also, I don't really understand the purpose of [Equiv.Perm.permMatrix](https://leanprover-community.github.io/mathlib4_docs/Mathlib/LinearAlgebra/Matrix/Permutation.html#Equiv.Perm.permMatrix).

File: Mathlib/LinearAlgebra/Matrix/Swap.lean
Comment (chrisflav) [reply Mathlib/LinearAlgebra/Matrix/Swap.lean:1]: Thanks a lot @eric-wieser! This PR went of my radar, fixed the remaining errors.

File: Mathlib/LinearAlgebra/Matrix/Swap.lean (hunk 22 above)
Comment (eric-wieser) [reply Mathlib/LinearAlgebra/Matrix/Swap.lean:35]: I think the import is pretty cheap, and inserting it makes `permMatrix` more discoverable.

Your `transpose` and `conjTranspose` lemmas could then also be stated for the more general `permMatrix` case, and invoked directly here.

Comment (chrisflav) [reply Mathlib/LinearAlgebra/Matrix/Swap.lean]: Done.

File: Mathlib/LinearAlgebra/Matrix/Swap.lean [hunk 26]
```diff
@@ -0,0 +1,143 @@
...
+A swap matrix indexed by `i` and `j` is the matrix that, when multiplying another matrix
+on the left (resp. on the right), swaps the `i`-th row with the `j`-th row
+(resp. the `i`-th column with the `j`-th column).
+
+Swap matrices are a special case of *elementary matrices*. For transvections see
+`Mathlib.LinearAlgebra.Matrix.Transvection`.
+
+## Implementation detail
+
+This is a thin wrapper around `(Equiv.swap i j).toPEquiv.toMatrix`.
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Matrix/Swap.lean:22]:
```suggestion
This is a thin wrapper around `(Equiv.swap i j).permMatrix`.
```

File: Mathlib/LinearAlgebra/Matrix/Swap.lean [hunk 27]
```diff
@@ -0,0 +1,143 @@
...
+@[simp]
+lemma mul_swap_apply_left (a i j : n) (g : Matrix n n R) :
+    (g * swap R i j) a i = g a j := by
+  simp [swap, PEquiv.mul_toMatrix_toPEquiv]
+
+/-- Multiplying with `swap R i j` on the right swaps the `j`-th column with the `i`-th column. -/
+@[simp]
+lemma mul_swap_apply_right (a i j : n) (g : Matrix n n R) :
+    (g * swap R i j) a j = g a i := by
+  rw [swap_comm, mul_swap_apply_left]
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Matrix/Swap.lean:108]: Shouldn't `g` be a rectangular matrix here (and perhaps in all the other lemmas too)?

File: Mathlib/Algebra/Group/Pi/Lemmas.lean [hunk 28]
```diff
@@ -425,6 +425,12 @@ theorem mulSingle_mono : Monotone (Pi.mulSingle i : f i → ∀ i, f i) :=
 theorem mulSingle_strictMono : StrictMono (Pi.mulSingle i : f i → ∀ i, f i) :=
   Function.update_strictMono
 
+@[to_additive]
+lemma mulSingle_comp {m n : Type*} [DecidableEq n] [DecidableEq m] [One α] (σ : n ≃ m)
```
Comment (eric-wieser) [inline Mathlib/Algebra/Group/Pi/Lemmas.lean:429]:
```suggestion
lemma mulSingle_comp_equiv {m n : Type*} [DecidableEq n] [DecidableEq m] [One α] (σ : n ≃ m)
```

**Comment by eric-wieser** [comment]
maintainer merge

since I've looked a little too much at this now.

Thanks for your patience!

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
